### ISSUE TITLE
`conv?` is broken

### ISSUE THREAD

**Issue by plp127** [leanprover-community/mathlib4#25162]
Here is a non-exhaustive list of some of the tests I tried that failed:
```lean
import Mathlib.Tactic.Widget.Conv

example (h : 1 + 2 = 5) : id 3 = 4 := by
  -- go to `1`
  conv?
  conv at h =>
    enter [1, 1]
  nomatch h

example : (∀ (h : 7 < 3), [0, 1, 2][7] = 7) = True := by
  -- go to `3`
  conv?
  conv =>
    enter [1, 1, 2]
  exact eq_true nofun

example : (fun _ : False => id id id id id true) = (fun _ : False => false) := by
  -- go to `true`
  conv?
  conv =>
    enter [1, _, 5]
  exact funext False.elim

example (s t : False → Bool) (x : False) : s x = t x := by
  -- go to `s`
  conv?
  conv =>
    enter [1, 0]
  exact x.elim

example : (fun _ : Unit => !false) () = true := by
  -- go to `false`
  conv?
  conv =>
    enter [1, 0, _, 1]
  rfl

example : False → True := by
  -- go to `True`
  conv?
  conv =>
    enter [2]
  exact fun _ => trivial

example : 1 = Nat.log2 4 → False := by
  -- go to `4`
  conv?
  conv =>
    enter [1, 2, 1]
  exact fun h => Nat.succ_ne_self 1 (Nat.log2_two_pow.symm.trans h.symm)

example : decide (True ≠ False) = decide True := by
  -- go to `False`
  conv?
  conv =>
    enter [1, 1, 2]
  rfl

set_option pp.explicit true in
example (inst : Decidable (True ∧ False)) :
    (clear% inst; inferInstanceAs (Decidable (True ∧ False))) = inst := by
  -- go to `instDecidableFalse`
  conv?
  conv =>
    enter [1, @2, @4]
  exact Subsingleton.elim _ inst

set_option pp.explicit true in
example : #[].foldl Nat.gcd 17 = 17 := by
  -- go to `instOfNatNat (nat_lit 0)`
  conv?
  conv =>
    enter [1, 4, @3]
  rfl

example : let a := 2; let c : Fin a := 1; let d : Fin c := (0 : Fin 1); ∀ b, b = d := by
  intro a c d b
  -- go to `a`
  conv?
  conv at c =>
    enter [1]
  exact Fin.subsingleton_one.elim b d

example : let a := 1; ∀ (b c : Fin a), b = c := by
  -- go to `c`
  conv?
  conv =>
    enter [a, b, c, 2]
  exact Fin.subsingleton_one.elim

set_option pp.proofs true in
example (k : Nat) (l : List Nat) (h : ∃ (h : k < l.length), k < l.length → l[k] = 0) :
    Fin.mk (l[k]'h.1) ((congrArg (· < 1) (h.2 h.1)).mpr Nat.zero_lt_one) = 0 := by
  -- go to `h.2`
  conv?
  conv =>
    enter [1, 2, 1, 2, 0]
  exact Subsingleton.elim _ 0

-- so that you can click on more thingies
@[delab app.id]
def expandApp : Lean.PrettyPrinter.Delaborator.Delab := do
  let expr ← Lean.PrettyPrinter.Delaborator.SubExpr.getExpr
  match expr with
  | .app f _ =>
    if f.isConstOf `id then failure
    let ef ← Lean.PrettyPrinter.Delaborator.SubExpr.withAppFn Lean.PrettyPrinter.Delaborator.delab
    let ex ← Lean.PrettyPrinter.Delaborator.SubExpr.withAppArg Lean.PrettyPrinter.Delaborator.delab
    `($ef $ex)
  | _ => failure

example : id id (id id id) (id id (id id) id id (id (id id))) id (id (id (id id)) True) := by
  -- go to `id id (id id id)`
  conv?
  conv =>
    fun; fun; fun
  exact trivial
```
See also [#mathlib4 > bug in &#96;conv?&#96;](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/bug.20in.20.60conv.3F.60/with/519568169) on Zulip
